US07307094B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-chlorophenyl)benzoxazole-7-carboxamide was prepared from 2-(4-chlorophenyl)benzoxazole-7-carboxylic acid and 3-aminoquinuclidine dihydrochloride using the method outlined in Step C of Example 14. This compound was obtained in 55% yield as a off-white solid: mp 181-183° C.; 1H NMR (500 MHz, CDCl3) δ 8.14 (d, J=8.6 Hz, 2H), 8.11 (dd, J=1.0, 11.1 Hz, 2H), 7.92 (dd, J=1.0, 7.9 Hz, 1H), 7.56 (d, J=8.6 Hz, 2H), 7.50 (t, J=7.8 Hz, 1H), 7.32 (d, J=7.1 Hz, 1H), 4.31 (m, 1H), 3.57 (dd, J=9.4, 14.4 Hz, 1H), 3.01 (t, J=7.9 Hz, 2H), 2.92 (m, 2H), 2.74 (m, 1H), 2.17 (m, 1H), 1.91 (m, 1H), 1.78 (m, 2H), 1.63 (m, 4H); MS (ESI) m/z 382 [M+H]+.

reactant | 2-(4-chlorophenyl)benzoxazole-7-carboxylic acid | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H8ClNO3
reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-chlorophenyl)benzoxazole-7-carboxamide | 55% yield | N12CC(C(CC1)CC2)NC(=O)C2=CC=CC=1N=C(OC12)C1=CC=C(C=C1)Cl | C21H20ClN3O2
